US04216160
Step A: Preparation of N,N-dimethyl-2-(acetylthio)acetamidine hydrochloride
To a solution of 1.54 g. of N,N-dimethyl-2-(mercapto)acetamidine hydrochloride in 15 ml. of acetic acid was added 2 ml. of acetic anhydride, and the reaction mixture was heated at 55°-60° C. for 3 hours, after which it was concentrated in vacuo. The product was crystallized from ether, filtered, and air dried, then recrystallized from ethanol to yield 1.1 g., m.p. 162°-5°-163° C.

reactant | N,N-dimethyl-2-(mercapto)acetamidine hydrochloride | Cl.CN(C(CS)=N)C
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-2-(acetylthio)acetamidine hydrochloride | Cl.CN(C(CSC(C)=O)=N)C | InChI=1S/C6H12N2OS.ClH/c1-5(9)10-4-6(7)8(2)3;/h7H,4H2,1-3H3;1H
